Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with h/o refractory depression presenting from
___ clinic on ___ after experiencing acute hypoxia to the ___
likely d/t bronchospasm.

Mr. ___ felt normal this morning and reported to ___ clinic for
his second ECT. The last thing he remembers is being induced at
___ clinic, after which he remembers awaking in respiratory
distress with significant wheezing. He was given 2g of Magnesium
Sulphate iv, Hydrocortisone 100mg IV, Salbutamol neb and
albuterol neb with anesthesia in ___ clinic and sent to the ED
for evaluation. He initially experienced pleuritic chest pain 
but
this has improved after therapy. He denies lightheadedness,
dizziness, syncope, palpitations, N/V/D, fevers, chills, ns,
rash. He takes ibuprofen at home and is unaware of any 
medication
allergies. His first ECT therapy was on ___ with no issues. 
He
denies current SI/HI/AH/VH. 

In the ED:
Initial vitals: 98.2, 104, 108/50, 18, 89% on 6L NC
Exam notable for: tachypnea, ___ wheezing and tight air movement
Labs notable for: VBG showing ph 7.32, pCO2 51. D-dimer 426
Studies notable for: CXR unremarkable
Consults: none
Therapy (in ___ clinic): 2g of Magnesium Sulphate iv,
Hydrocortisone 100mg IV, Salbutamol neb and albuterol neb 
Therapy (in ED): duonebs, Zofran 4mg, Tylenol ___ PO

Vitals on transfer: 98.8, 114, 111/70, 26, 96% on 3L NC

Upon arrival to the floor, pt reports feeling much better, with
no SOB and mild wheezing. 

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.

 
Past Medical History:
Depression
Asthma
 
Social History:
He has a past history of abusing alcohol, marijuana and
prescription opiates. However, he has not abused any substances
since his hospitalization for that abuse, around one and a half
to ___ years ago.
 
He grew up in ___. He was
quite active in wrestling, in high school. He continues to work
as a part-time ___ school ___ during the ___
season, in the winter.His parents got divorced around ___ years
ago. He currently lives with his father, in ___. He 
describes
himself as close to his mother and father, as well as to his
brother, who lives in ___. However, he does not see himself
as particularly close to any other people. He is not currently 
in
any romantic relationships. He says that he has not been 
involved
in these for several years. He is not currently working. He does
not have any particular activities that he is engaged in during
the day.

 
Family History:
This is notable for depression in his father. 
Around ___ years ago, his father had a course of ECT, at this
hospital, but it did not help it.  He then had a course of
transcranial magnetic stimulation, and this was actually quite
helpful for his depression.  As above, the patient's brother has
a history of substance abuse.  A paternal grandmother and
paternal aunts and uncles also had depression.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: No respiratory distress. No accessory muscle use. Mouth
breathing. Tachypnic. Diffuse inspiratory and expiratory
wheezing, L>R.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
========================
VS: ___ 0749 Temp: 98.4 PO BP: 112/70 HR: 81 RR: 20 O2 sat:
95% O2 delivery: 3.5L 
GENERAL: NAD, lying comfortably in bed
HEENT: AT/NC, anicteric sclera, MMM. EOMI, PERRLA
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial/DP pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
================
___ 12:28PM BLOOD WBC-8.1 RBC-5.33 Hgb-15.5 Hct-43.7 MCV-82 
MCH-29.1 MCHC-35.5 RDW-13.1 RDWSD-38.5 Plt ___
___ 12:28PM BLOOD Neuts-70.5 ___ Monos-5.3 Eos-3.2 
Baso-0.7 Im ___ AbsNeut-5.73 AbsLymp-1.60 AbsMono-0.43 
AbsEos-0.26 AbsBaso-0.06
___ 12:28PM BLOOD Plt ___
___ 12:28PM BLOOD Glucose-92 UreaN-13 Creat-1.0 Na-139 
K-4.8 Cl-102 HCO3-22 AnGap-15
___ 12:28PM BLOOD D-Dimer-426
___ 12:40PM BLOOD ___ pO2-49* pCO2-51* pH-7.32* 
calTCO2-27 Base XS-0

DISCHARGE LABS:
===============

___ 06:22AM BLOOD WBC-18.6* RBC-4.48* Hgb-13.0* Hct-37.8* 
MCV-84 MCH-29.0 MCHC-34.4 RDW-13.3 RDWSD-41.1 Plt ___
___ 06:22AM BLOOD Plt ___
___ 06:22AM BLOOD Glucose-108* UreaN-16 Creat-1.0 Na-142 
K-4.5 Cl-102 HCO3-25 AnGap-15
___ 06:22AM BLOOD Calcium-8.5 Phos-3.1 Mg-2.0

PERTINENT IMAGING:
==================
___ Chest X-Ray:
IMPRESSION:  
Mild left mid lung atelectasis/scarring.  No definite focal 
consolidation 

 
Brief Hospital Course:
Mr. ___ is a ___ male with asthma, tobacco use, 
history of refractory depression who was admitted from ___ 
clinic on ___ after experiencing acute hypoxia to the ___ 
after ECT procedure.  His bronchospasm/hypoxia was thought to 
be secondary to acute bronchospasm, possibly in setting of 
anesthesia induction (methohexital versus less likely 
ketorolac) or secondary to a microaspiration event, as well as 
underlying poorly controlled asthma.  He received IV 
hydrocoritosone, IV Mag, and duonebs with improvement in his 
bronchospasm.  He was monitored in hospital overnight and 
weaned off nasal cannula oxygen to room air on day of 
discharge.  Saturations at rest 92-97% and saturations with 
ambulation 92% on discharge.  Subjectively his dyspnea and 
bronchsospasm resolved on day of discharge.  He was noted to 
have sinus tachycardia worse with ambulation. However he 
endorsed deconditioning, and given his anxiety and 
bronchdilator treatment, this was not felt to be concerning for 
another acute process (of note HRs in ___ while asleep). His 
family had discussions with anesthesia and psychiatry and will 
likely hold off on further ECT for now. Allergy testing can be 
considered if appropriate. PCP renewed ___ on day of 
discharge.

Pt also with refractory depression, with multiple failed trials 
of pharmacologic therapy, currently on fluoxetine 60mg qd, 
prazosin 5mg qd, and lithium 300mg qAM, 600mg qHS. These were 
all continued while inpatient He was was recently referred to 
___ clinic most recent treatment ___.

TRANSITIONAL ISSUES:
===================
- Continue to titrate asthma regimen
- follow-up anesthesia/psychiatry plans and further assessment 
of patient's bronchospastic episode
- evaluate for further tachycardia and consider further work-up 
if not improving 
- could consider allergy testing
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY home med 
2. Prazosin 5 mg PO DAILY home med 
3. Lithium Carbonate 300 mg PO DAILY home 
4. Lithium Carbonate 600 mg PO QHS home med 
5. QUEtiapine Fumarate 50 mg PO DAILY:PRN anxiety 
6. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
2.  FLUoxetine 60 mg PO DAILY home med  
3.  Lithium Carbonate 300 mg PO DAILY  
4.  Lithium Carbonate 600 mg PO QHS  
5.  Prazosin 5 mg PO DAILY  
6.  QUEtiapine Fumarate 50 mg PO DAILY:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Bronchospasm
#Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you had some wheezing 
and low oxygen after your ECT treatment.

You were given breathing treatments and steroids.  It is a bit 
unclear why you had wheezing after the ECT treatment.  You might 
have had a micro aspiration (breathing in of saliva) or could 
have had some wheezing from one of the medications you received 
during the ECT treatment (methohexital much more likely than 
possibly ketorolac). 

WHAT TO DO NEXT?
- Please follow up with your primary care doctor as scheduled. 
- Please take your albuterol inhaler as needed.  You will need 
to further discuss better control of your asthma with your 
primary care doctor.
- Please try to cut back on your vaping or quit entirely as this 
will help improve your breathing.
- Please seek care if your wheezing returns, you become more 
short of breath, or develop any other concerning symptoms.

We wish you the best,

Your ___ Care Team

 
Followup Instructions:
___